US05206235
Step A: 3-(Trifluoromethyl)phenethyl tosylate
A solution of 10.0 g (52.6 mmol) of 3-(trifluoromethyl)phenethyl alcohol in 75 mL of ether under nitrogen was treated with 10.53 g (55.2 mmol, 1.05 eq) p-toluenesulfonyl chloride. The solution was cooled to 0° and treated with 7.67 mL (5.57 g, 55.0 mmol, 1.05 eq) of triethylamine. The mixture was stirred at 0° for 30 minutes then warmed to room temperature and stirred for 16 hours. The precipitate was removed by filtration and washed with ether. The combined filtrate and ether wash were evaporated under vacuum. The residue was redissolved in ethyl acetate and washed with 0.5N HCl and brine; the organic layer was removed, dried over sodium sulfate, filtered and concentrated under vacuum. Purification by flash chromatography on silica, eluting with 30% ethyl acetate/hexane, afforded 15.14 g (44.0 mmol, 84%) of the product. 1H NMR (200 MHz, CDCl3): 2.44 (s,3H), 3.03 (t,7 Hz,2H), 4.26 (t,7 Hz,2H), 7.2-7.5 (m,6H), 7.66 (d,8 Hz,2H). FAB-MS: calculated for C16H15F3SO3 344; found 345 (M+H, 8%).

reactant | 3-(trifluoromethyl)phenethyl alcohol | 52.6 mmol, 10.0 g | FC(C=1C=C(CCO)C=CC1)(F)F | C9H9F3O
reactant | p-toluenesulfonyl chloride | 55.2 mmol, 10.53 g, 1.05 eq | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | triethylamine | 55.0 mmol, 7.67 mL, 5.57 g, 1.05 eq | C(C)N(CC)CC | C6H15N
solvent | ether | 75 mL | CCOCC | C4H10O
product | 3-(Trifluoromethyl)phenethyl tosylate | 44.0 mmol, 15.14 g, 84% | S(=O)(=O)(OCCC1=CC(=CC=C1)C(F)(F)F)C1=CC=C(C)C=C1 | C16H15F3O3S
